US05144045
3,3-Difluoro-2-methyl-1-nonadecene
A solution of 160 mg of 3,3-difluoro-2-methyl-2-nonadecanol in 2 ml of pyridine containing 50 ul of phosphorous oxychloride is heated at 90° C. then allowed to cool to 50° C. An additional 250 ul of phosphorous oxychloride is added followed by heating at 90° C. for 2 hours. After allowing to stand at ambient temperature for 18 hours, the volatiles are removed and the concentrate partitioned between hexanes and 10% hydrochloric acid. The organic layer is washed with water and 10% sodium bicarbonate then dried and evaporated to a residue which is purified by chromatography on silica gel using hexane to give 140 mg of the desired product as an oil.

reactant | 3,3-difluoro-2-methyl-2-nonadecanol | 160 mg | FC(C(C)(O)C)(CCCCCCCCCCCCCCCC)F | C20H40F2O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 250 ul | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3,3-Difluoro-2-methyl-1-nonadecene | 140 mg | FC(C(=C)C)(CCCCCCCCCCCCCCCC)F | C20H38F2
